US06353006B1
Isopropylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-isopropyl-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-Isopropyl-N-(2,2-dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2-methyl-4-nitrophenyl isothiocyanate according to Method C2f to afford 2-(2-methyl-4-nitrophenylimino)-3-isopropyl-5,5-dimethyl-1,3-thiazolidine.

reactant | N-Isopropyl-N-(2,2-dimethyl-2-hydroxyethyl)amine | C(C)(C)NCC(O)(C)C | C7H17NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl-4-nitrophenylimino)-3-isopropyl-5,5-dimethyl-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(CN1C(C)C)(C)C | C15H21N3O2S
